data/mechanism_extracts/GreenChem/10.1039_D3GC00837A_sup_1.json
{"doi": "10.1039_D3GC00837A_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical vicinal aminoselenation and oxyselenation of alkenes (e.g., cyclohexene, styrene) using saccharin or carboxylic acids as N/O nucleophiles and diphenyl diselenide as the Se source", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of bromide (from VBImBr/Et4NBr) generates Br radical/Br2 which oxidizes PhSeSePh to PhSe radical/PhSe+; the seleniranium-type cation (alkene + PhSe+) is then opened by the N- or O-nucleophile", "key_intermediates": [{"name": "phenylselenyl radical (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "diphenyl-substituted seleniranium cation from styrene (b')", "smiles": null, "role": "reactive"}, {"name": "vinyl selenide byproduct (c')", "smiles": null, "role": "off_pathway"}, {"name": "cyclohexene-derived seleniranium cation (d')", "smiles": null, "role": "reactive"}, {"name": "TEMPO-trapped β-selenyl cyclohexyl adduct (e')", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes Br- to Br•/Br2, which oxidizes PhSeSePh to PhSe• and/or PhSe+; addition to the alkene gives a seleniranium (or β-selenyl carbon radical that is further oxidized to a cation), which is opened by saccharin N–H or carboxylic acid to give the vicinal aminoselenation/oxyselenation product. Cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Little effect on yield (styrene 98%; cyclohexene aminoselenation 91%; oxyselenation 92%) — minor radical involvement in early steps"}, {"name": "activated carbon", "smiles": null, "purpose": "radical_trap", "observation": "Modest decrease (83% cyclohexene aminoselenation; 75% oxyselenation) — partial radical character"}, {"name": "1,1-diphenylethylene", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Yield drops to 87% (aminoselenation) and 84% (oxyselenation); HRMS detected vinyl selenide c' (C20H17Se, 337.0485), consistent with PhSe• addition to DPE"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Strong inhibition: styrene aminoselenation 79%, cyclohexene aminoselenation drops to 20% (0.4 mmol) and trace (0.8 mmol); oxyselenation trace. HRMS detected TEMPO–cyclohexyl–SePh adduct e', confirming a β-selenyl carbon radical intermediate"}, {"name": "HRMS detection of seleniranium b'/d'", "smiles": null, "purpose": "intermediate_trap", "observation": "Seleniranium cations b' (from styrene, m/z 261.017) and d' (from cyclohexene, C12H15Se+ calcd 239.0334, found 239.0329) directly observed by HRMS"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two mechanistic regimes are supported: (i) a radical pathway in which PhSe• adds to the alkene to give a β-selenyl carbon radical (trapped by TEMPO as adduct e'), which is oxidized to a cation and captured by N/O nucleophile; (ii) an ionic pathway via a seleniranium cation (b', d' detected by HRMS) opened by the nucleophile. The strong TEMPO inhibition and isolation of e' favor the radical-then-cation (radical polar crossover) route, while seleniranium detection indicates the cationic pathway may operate in parallel. Bromide acts as a redox mediator."}
